US06998233B2
N-tosyl-proline derivatives were synthesized as follows. Proline methyl ester hydrochloride was reacted with 4-(chlorosulfonyl)benzoic acid and sodium carbonate in water. The product was converted to the pentafluorophenyl ester by reacting it with pentafluorophenyl trifluoroacetate and pyridine in N,N-dimethylformamide, and purified via flash chromatography. This activated ester was then reacted with the methyl-ester of glutamate (or any of the other amino acids tested) in the presence of triethylamine and dichloromethane, the product purified by flash chromatography, and the methyl esters hydrolyzed with lithium hydroxide in water. The final products were purified via reverse-phase HPLC and lyophilized.

reactant | Proline methyl ester hydrochloride | Cl.COC([C@H]1NCCC1)=O
reactant | 4-(chlorosulfonyl)benzoic acid | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | pentafluorophenyl trifluoroacetate | FC(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C8F8O2
solvent | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-tosyl-proline | S(=O)(=O)(C1=CC=C(C)C=C1)N1[C@H](C(=O)O)CCC1 | C12H15NO4S
